US05569664
To a stirred solution of 20.0 grams (0.12 mole) of ethyl 4-hydroxybenzoate in 200 mL of acetic acid was added a solution of 7.5 mL (excess) of 70% nitric acid in 30 mL of acetic acid. After the reaction mixture stirred for about one hour, it gradually turned orange and warmed to about 40° C. The reaction mixture was stirred for an additional eighteen hours and then was poured into 800 mL of ice-water. The mixture was stirred until the ice melted, and filtered to collect a solid, which was dissolved in ethyl acetate and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure, yielding 22.0 grams of ethyl 3-nitro-4-hydroxybenzoate, mp 70°-71° C. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl 4-hydroxybenzoate | 0.12 mole, 20.0 grams | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | nitric acid | 7.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-nitro-4-hydroxybenzoate | 22.0 grams | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1O | C9H9NO5
